US05047411
Methanolic sodium methoxide (28 wt. %, 1.25 g) was added to a solution of 2-acetamido-6-hydroxybenzoxazole (1.25 g) and 2-chloromethyl-7-methylimidazo[1,2-a]pyridine (1.41 g) in N,N-dimethylformamide (25 ml). After the mixture was stirred at 50° C. for 17 hours, the solvent was evaporated in vacuo. Water was added to the residue and the mixture was extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel (62.5 g) by eluting with chloroform-methanol (50:1, V/V), and the product obtained was recrystallized from a mixture of methanol, dioxane and diisopropyl ether to give 2-acetamido-6-[(7-methylimidazo[1,2-a]pyridin-2-yl)methoxy]benzoxazole (0.22 g).

reactant | sodium methoxide | 1.25 g | C[O-].[Na+]
reactant | 2-acetamido-6-hydroxybenzoxazole | 1.25 g | C(C)(=O)NC=1OC2=C(N1)C=CC(=C2)O | C9H8N2O3
reactant | 2-chloromethyl-7-methylimidazo[1,2-a]pyridine | 1.41 g | ClCC=1N=C2N(C=CC(=C2)C)C1 | C9H9ClN2
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-acetamido-6-[(7-methylimidazo[1,2-a]pyridin-2-yl)methoxy]benzoxazole | 0.22 g | C(C)(=O)NC=1OC2=C(N1)C=CC(=C2)OCC=2N=C1N(C=CC(=C1)C)C2 | C18H16N4O3
